US06465467B1
Step 1: 2-Chloro-3-(2-phenoxyethoxy)quinoxaline.
The title compound was prepared according to the procedure described in Example 1, Step 1, starting from 2-phenoxyethanol (3.7 g, 26.8 mmol), 2,3-dichloroquinoxaline (1.33 g, 6.7 mmol) and KO-t-Bu (0.75 g, 6.7 mmol): yield 0.74 g (37%); mp 99.5-101.5° C.; HRMS m/z calcd for C16H13ClN2O2 (M)+ 300.0666, found 300.0672. Anal. (C16H13ClN2O2) C, H, N.

reactant | 2-phenoxyethanol | 26.8 mmol, 3.7 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | 2,3-dichloroquinoxaline | 6.7 mmol, 1.33 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | KO-t-Bu | 6.7 mmol, 0.75 g | O([K])C(C)(C)C
product | 2-Chloro-3-(2-phenoxyethoxy)quinoxaline | ClC1=NC2=CC=CC=C2N=C1OCCOC1=CC=CC=C1 | C16H13ClN2O2
